US05428043
2,3-dihydro-7-hydroxy-2-[[1-(phenylmethyl)-4-piperidinyl]methyl]-1H-pyrrolo[1,2-a]indol-1one
A solution of 2,3-dihydro-7-methoxy-2-[[1-(phenylmethyl)-4-piperidinyl]methyl]-1H-pyrrolo[1,2-a]indol-1-one (1.599 g, 4.12 mmol) in 95 ml of methylene chloride was treated with potassium carbonate (5.696 g, 41.2 mmol) and cooled to -78° C. Boron tribromide (BBr3) was added dropwise to the cooled solution. After addition, the resulting solution was stirred at 0° C. for one hour, then at room temperature overnight. The mixture was treated with 36 g of potassium carbonate and 100 ml of water and stirred for one hour. The organic layer was separated, washed with water, dried and concentrated to give 1.652 g of yellow solid which was purified through silica gel column chromatography to give 0.988 g of the title compound. This material was recrystallized from ethyl acetate to give brown crystals, mp. 186°-188° C. Anal. Calc. for C24H26N2O2.0.1H2O: C, 76.60; H, 7.02; N, 7.45; Found C, 76.45; H, 7.18; N, 7.38.

reactant | 2,3-dihydro-7-methoxy-2-[[1-(phenylmethyl)-4-piperidinyl]methyl]-1H-pyrrolo[1,2-a]indol-1-one | 4.12 mmol, 1.599 g | COC1=CC=2C=C3N(C2C=C1)CC(C3=O)CC3CCN(CC3)CC3=CC=CC=C3 | C25H28N2O2
reactant | potassium carbonate | 41.2 mmol, 5.696 g | C([O-])([O-])=O.[K+].[K+]
reactant | Boron tribromide | B(Br)(Br)Br | BBr3
reactant | potassium carbonate | 36 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 100 ml | O | H2O
solvent | methylene chloride | 95 ml | C(Cl)Cl | CH2Cl2
product | 2,3-dihydro-7-hydroxy-2-[[1-(phenylmethyl)-4-piperidinyl]methyl]-1H-pyrrolo[1,2-a]indol-1one | 1.652 g | OC1=CC=2C=C3N(C2C=C1)CC(C3=O)CC3CCN(CC3)CC3=CC=CC=C3 | C24H26N2O2
